US07550459B2
4-(3-Chloropropyl)-6,8-difluoro-4H-benzo[1.4]oxazin-3-one
6,8-Difluoro-4H-benzo[1,4]oxazin-3-one (0.80 g, 4.3 mmol), Cs2CO3 (2.12 g, 6.5 mmol), and 1-chloro-3-iodopropane (0.98 g, 4.8 mmol) were mixed according to GP2. Purified by column chromatography (SiO2; heptanes/EtOAc, gradient 0 to 50% EtOAc) to give the title compound (0.44 g, 39%). Rf=0.65 (heptanes/EtOAc 1:1); 1H NMR (CDCl3) d 6.66-6.59 (m, 2H), 4.64 (s, 2H), 4.09-4.03 (m, 2H), 3.62 (t, J=6.0 Hz, 2H), 2.23-2.10 (m, 2H); 13C NMR (CDCl3) d 164.2, 157.5 (dd, J=242.5 Hz, J=12.7 Hz), 151.7 (dd, J=248.5 Hz, J=14.4 Hz), 131.0 (dd, J=12.1 Hz, J=4.8 Hz), 130.4 (dd, J=15.0 Hz, J=3.2 Hz), 99.7 (dd, J=26.9 Hz, J=22.4 Hz), 98.2 (dd, J=28.4 Hz, J=3.4 Hz), 67.8, 42.2, 39.7, 30.0.

reactant | 6,8-Difluoro-4H-benzo[1,4]oxazin-3-one | 4.3 mmol, 0.80 g | FC=1C=C(C2=C(NC(CO2)=O)C1)F | C8H5F2NO2
reactant | Cs2CO3 | 6.5 mmol, 2.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloro-3-iodopropane | 4.8 mmol, 0.98 g | ClCCCI | C3H6ClI
product | 4-(3-Chloropropyl)-6,8-difluoro-4H-benzo[1.4]oxazin-3-one | 0.44 g, 39% | ClCCCN1C(COC2=C1C=C(C=C2F)F)=O | C11H10ClF2NO2
